US08168794B2
To a solution of benzyl 4-chloro-3-(diethoxyphosphorylamino)piperidine-1-carboxylate (1.0 equiv.) in degassed MeOH was added Pd/C (10% by weight) and the reaction was stirred under a hydrogen atmosphere for 1 h. The solution was filtered, then concentrated to yield diethyl 4-chloropiperidin-3-ylphosphoramidate in 92% yield. LCMS (m/z): 271.0 (MH+).

reactant | benzyl 4-chloro-3-(diethoxyphosphorylamino)piperidine-1-carboxylate | 1.0 equiv. | ClC1C(CN(CC1)C(=O)OCC1=CC=CC=C1)NP(=O)(OCC)OCC | C17H26ClN2O5P
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | diethyl 4-chloropiperidin-3-ylphosphoramidate | 92% yield | ClC1C(CNCC1)NP(OCC)(OCC)=O | C9H20ClN2O3P
